US06552069B1
A solution of (3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methyl-4-(2-propenyl)chroman-2-one (6.91 g) in anhydrous tetrahydrofuran (26 ml) was added dropwise to an ice-cold suspension of lithium aluminum hydride (1.65 g) in anhydrous tetrahydrofuran (50 ml) over 20 minutes under nitrogen atmosphere, and the reaction mixture was then stirred on ice for 50 minutes. Ethyl acetate (20 ml) and saturated aqueous ammonium chloride (20 ml) were added to stop the reaction, followed by stirring for 1 hour at room temperature. The reaction mixture was filtered through cellite and the resulting filtrate was extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous ammonium chloride, dried over magnesium sulfate and then concentrated under reduced pressure to give (2RS,3RS)-3-(2-hydroxy-4-methoxymethoxyphenyl)-2-(4-methoxymethoxyphenyl)-2-methyl-5-hexen-1-ol (6.94 g, Yield 99.4%) as a crude product, which was then used for the subsequent reaction without further purification.

reactant | (3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methyl-4-(2-propenyl)chroman-2-one | 6.91 g | COCOC1=CC=C2C(C(C(OC2=C1)=O)(C)C1=CC=C(C=C1)OCOC)CC=C | C23H26O6
reactant | lithium aluminum hydride | 1.65 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 26 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (2RS,3RS)-3-(2-hydroxy-4-methoxymethoxyphenyl)-2-(4-methoxymethoxyphenyl)-2-methyl-5-hexen-1-ol | 6.94 g, Yield 99.4% | OC1=C(C=CC(=C1)OCOC)C(C(CO)(C)C1=CC=C(C=C1)OCOC)CC=C | C23H30O6
